.SUBCKT LT1168  1  2  3  4  5  6  7  8
*
XIN1  2  1  7  4  10  LT1168_IN
XIN2  3  8  7  4  11  LT1168_IN
XOUT  13  12  7  4  6  LT1168_OUT
*
* input protection
DIP1  2  7  DX
DIP2  3  7  DX
DIP3  4  2  DX
DIP4  4  3  DX
*
* input capacity
CDIFF  2  3  1.6E-12
CCM1  2  4  1.6E-12
CCM2  3  4  1.6E-12
*
* bias current
IBP 0 450 140E-6
RBP 450 0 1.0E3  TC=-0.015
GBP  7  3  450  0  -1.0E-9
IBN 0 451 90E-6
RBN 451 0 1.0E3  TC=-0.015
GBN  7  2  451  0  -1.0E-9
*
*  feedback network
RF1  1  10  24.7E3
CF1  1  10  5.0E-13
RF2  8  11  24.7E3
CF2  8  11  5.0E-13
RCM1  10  12  30E3
RCM2  6    12  30E3
RCM3  11  13  30E3
RCM4  13  5    30E3
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
*
** nested subcircuit: LT1168_IN
.SUBCKT LT1168_IN 1 2 3 4 5
*
* input stage
GRIN 1 2 1 2 1.0000e-009
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 3 11 ROVD1 1.1429e+004
RD2 3 12 ROVD2 1.1429e+004
DI1 111 3 DI1
DI2 2 3 DI2
C1 11 12 3.4815e-012
IEE 10 4 DC 1.7500e-004
GA 60 99 11 12 8.7500e-005
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 1.4490e-003
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 1.4490e-003
RRu 605 0 2.655e+001
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.1831e+000
ECM 111 1 20 99 5.6234e-007
*
* frequency shaper
RP1 601 99 3.3333e+003
CP1 60 601 5.9683e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.6667e+004
LP2 61 611 3.3157e-003
RP22 61 99 2.5000e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 3.5000e-010
GB 7 99 6 99 5.9163e+003
R01 7 99 5.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.0920e+000
VE 54 50 DC -7.9200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.4164e-002 VTO=1.000004e+000 KF=5.1722e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.4164e-002 VTO=9.999960e-001 KF=5.1722e-028)
.MODEL ROVD1 RES (TC1=-4.7965e-007)
.MODEL ROVD2 RES (TC1=4.7965e-007)
.MODEL DI1 D (IS=1.0500e-011 EG=-3.4717e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=9.5000e-012 EG=-4.5612e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.7641e-017 RS=0 XTI=0)
*
.ENDS LT1168_IN
** end nested subcircuit: LT1168_IN
** nested subcircuit: LT1168_OUT
.SUBCKT LT1168_OUT 1 2 3 4 5
*
* input stage
CIN 1 2 4.2834e-013
GRIN 1 2 1 2 1.0000e-009
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 3 11 ROVD1 1.1429e+004
RD2 3 12 ROVD2 1.1429e+004
DI1 111 3 DI1
DI2 2 3 DI2
C1 11 12 3.4815e-012
IEE 10 4 DC 1.7500e-004
GA 60 99 11 12 8.7500e-005
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.1831e+000
* 
* 140 dB for gain=1000
*ECM 111 1 20 99 1.000e-007
*
* 135 dB for gain=100
ECM 111 1 20 99 1.778e-007
*
* 115 dB for gain=10
*ECM 111 1 20 99 1.778e-006
*
* 95 dB for gain=1
*ECM 111 1 20 99 1.778e-005
*
* frequency shaper
RP1 601 99 3.3333e+003
CP1 60 601 5.9683e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.6667e+004
LP2 61 611 3.3157e-003
RP22 61 99 2.5000e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 3.5000e-010
GB 7 99 6 99 5.9163e+003
R01 7 99 5.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.0920e+000
VE 54 50 DC -7.9200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.7037e+002
ECLN 92 0 7 50 3.7037e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.9842e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC -1.7500e-004
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.4164e-002 VTO=1.000004e+000 KF=5.1722e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.4164e-002 VTO=9.999960e-001 KF=5.1722e-028)
.MODEL ROVD1 RES (TC1=-4.7965e-007)
.MODEL ROVD2 RES (TC1=4.7965e-007)
.MODEL DI1 D (IS=1.0500e-011 EG=-3.4717e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=9.5000e-012 EG=-4.5612e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.7641e-017 RS=0 XTI=0)
*
.ENDS LT1168_OUT
** end nested subcircuit: LT1168_OUT
.ENDS LT1168
