.SUBCKT LT1189     3 2 7 4 6 REF FB
* LT1189 FRONT END
RL1A 7 1A 500
RL2A 7 5A 500
RE1A 9A 10A 295
RE2A 6A 8A 300
I1 9A 4 DC 234UA
I2 10A 4 DC 234UA
I3 6A 4 DC 245UA
I4 8A 4 DC 245UA
Q1A 1A 3 9A MOD1
Q2A 5A 2 10A MOD2
Q3A 1A REF 6A MOD1
Q4A 5A FB 8A MOD2
RCM1 9A 0 10MEG
RCM2 6A 0 10MEG
CCM1 9A 0 .2PF
CCM2 6A 0 .2PF
CIN1 2 3 2PF
CIN2 REF FB 2PF
.MODEL MOD1 NPN BF=500 IS=1.00E-16
.MODEL MOD2 NPN BF=550 IS=1.04E-16
*
* INPUT
RC1 7  80 3.5368E+01
RC2 7  90 3.5368E+01
Q1  80 1A  10 QM1 
Q2  90 5A  11 QM2 
CIN 2  3  1.0000E-13
C1  80 90 4.1212E-11
RE1 10 12 +3.1059E+01
RE2 11 12 +3.1059E+01
IEE 12 4  1.2000E-02
RE  12 0  1.6667E+04
* INTERMEDIATE 
GCM 0  8  12 0  5.6415E-08
GA  8  0  80 90 2.8274E-02
R2  8  0  1.0000E+05
C2  1  8  25.0000E-12
GB  1  0  8  0  3.5024E-01
RO2 1  0  9.0000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  2.9390E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 0.0000E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.5822E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.0822E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  1.3970E-09
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=4.0000E+09)
.MODEL QM2 NPN (IS=8.0003E-16 BF=1.2000E+10)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1189
