.SUBCKT LT1190     3 2 7 4 6 
* INPUT
RC1 7  80 9.6458E+01
RC2 7  90 9.6458E+01
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.2000E-12
C1  80 90 4.0192E-12
*
CXC1 80 80A 10PF
RXR1 80A 90 500
*
RE1 10 12 +9.3801E+01
RE2 11 12 +9.3801E+01
IEE 12 4  1.9501E-02
RE  12 0  1.0256E+04
* INTERMEDIATE 
GCM 0  8  12 0  3.2784E-06
GA  8  0  80 90 1.0367E-02
R2  8  0  1.0000E+05
C2  1  8  3.0000E-11
GB  1  0  8  0  6.4305E+00
RO2 1  0  1.5000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  1.2338E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 1.8507E-01
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.6107E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.1107E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  1.2499E-02
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.6250E+04)
.MODEL QM2 NPN (IS=8.9844E-16 BF=2.4375E+04)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1190
