.SUBCKT LT1192     3 2 7 4 6 
* INPUT
RC1 7  80 1.1789E+01
RC2 7  90 1.1789E+01
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  1.8000E-12
C1  80 90 5.5981E-11
RE1 10 12 +8.6552E+00
RE2 11 12 +8.6552E+00
IEE 12 4  1.6501E-02
RE  12 0  1.2120E+04
* INTERMEDIATE 
GCM 0  8  12 0  4.7699E-06
GA  8  0  80 90 8.4823E-02
R2  8  0  1.0000E+05
C2  1  8  3.0000E-11
GB  1  0  8  0  3.1289E+00
RO2 1  0  1.5000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  1.2252E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 1.8378E-01
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.6003E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.1003E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  1.5499E-02
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.3750E+04)
.MODEL QM2 NPN (IS=8.0621E-16 BF=2.0625E+04)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1192
