.SUBCKT LT1194     3 2 7 4 6 REF VOS1 VOS2
* LT1194 FRONT END
VBIAS 2A 4 DC 0.975
I1 6A 4 DC .0014
I2 8A 4 DC .0014
RL1A 7 1A 500
RL2A 7 5A 500
RE1A 9A 10A 230
RE2A 6A 8A 230
RFB FB 6 4500
RG FB REF 500
RX1 VOS1 4 150
RX2 VOS2 4 150
RCM1 9A 0 7.5MEG
RCM2 6A 0 7.5MEG
CCM1 9A 0 1PF
CCM2 6A 0 1PF
CIN1 2 3 2PF
Q1A 1A 3 9A MOD1
Q2A 5A 2 10A MOD2
Q3A 1A REF 6A MOD1
Q4A 5A FB 8A MOD2
Q5A 9A 2A VOS1 MOD1
Q6A 10A 2A VOS2 MOD1
.MODEL MOD1 NPN BF=2000 IS=1.00E-16
.MODEL MOD2 NPN BF=2500 IS=1.04E-16
*
* INPUT
RC1 7  80 5.8946E+01
RC2 7  90 5.8946E+01
Q1  80 1A  10 QM1 
Q2  90 5A  11 QM2 
CIN 1A 5A  1.0000E-13
C1  80 90 1.5000E-11
RE1 10 12 +5.6484E+01
RE2 11 12 +5.6484E+01
IEE 12 4  2.1000E-02
RE  12 0  9.5238E+03
* INTERMEDIATE 
GCM 0  8  12 0  3.3849E-08
GA  8  0  80 90 1.6965E-02
R2  8  0  1.0000E+05
C2  1  8  3.0000E-11
GB  1  0  8  0  3.1215E+00
RO2 1  0  1.5000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  1.2378E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 1.8567E-01
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.6155E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.1155E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  8.5000E-03
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=7.0000E+09)
.MODEL QM2 NPN (IS=8.0003E-16 BF=2.1000E+10)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1194
